US05616762
In analogy to Example 6, a reaction mixture consisting of 640 g of p-xylene, 680 g (8.17 mol) of allyl isocyanate and 1250 g (7.6 mol) of triethoxysilane was reacted at from 76° to 92° C. over the course of 150 minutes. Working up by distillation gave 1350 g of 3-isocyanatopropyltriethoxysilane in addition to the trimer.

reactant | allyl isocyanate | 8.17 mol, 680 g | C(C=C)N=C=O | C4H5NO
reactant | triethoxysilane | 7.6 mol, 1250 g | C(C)O[SiH](OCC)OCC | C6H16O3Si
solvent | p-xylene | 640 g | CC=1C=CC(=CC1)C | C8H10
product | 3-isocyanatopropyltriethoxysilane | 1350 g | N(=C=O)CCC[Si](OCC)(OCC)OCC | C10H21NO4Si
